US07179801B2
A solution of ethyl 3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanoate (10 g) in a mixture of methanol (50 ml) and an aqueous solution of 28% ammonia (104 ml) was stirred at room temperature for 41 hours. After evaporation of the solvent in vacuo, the residue was triturated with diisopropyl alcohol, dried in vacuo to give 3-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide (6.44 g).

reactant | ethyl 3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanoate | 10 g | C(=O)N1CCN2N=CC(=C21)CCC(=O)OCC | C11H15N3O3
reactant | ammonia | 104 ml | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide | 6.44 g | N1CCN2N=CC(=C21)CCC(=O)N | C8H12N4O
